US04046900
4-(3-trifluoromethylbenzoyl)piperidine is prepared in the following manner: A solution of 102.5 g of 3-bromobenzotrifluoride in 25 ml of ether is added dropwise to a stirring mixture of 11.5 g of magnesium turnings in 300 ml of anhydrous ether to maintain a moderate reflux. After total addition the resulting dark mixture is stirred for 1 hour at ambient temperature. A solution of 60.0 g of 1-acetyl-4-cyanopiperidine in 100 ml of tetrahydrofuran is slowly added to this mixture and the mixture is stirred for 16 hours. An excess of an aqueous solution of ammonium chloride is added and the mixture is heated on a steam bath for 3 hours. The mixture is allowed to cool, extracted with benzene and the combined extracts are dried. The solvent is removed and the residue is dissolved in ethanol and basified with sodium hydroxide. The alkaline solution is refluxed for 3 hours, cooled and extracted with benzene. The combined benzene extracts are dried and the benzene is removed, leaving the oil, 4-(3 -trifluoromethylbenzoyl)piperidine, which is converted to the hydrochloride, mp 196°-198° C.

reactant | 3-bromobenzotrifluoride | 102.5 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | magnesium | 11.5 g | [Mg] | Mg
reactant | 1-acetyl-4-cyanopiperidine | 60.0 g | C(C)(=O)N1CCC(CC1)C#N | C8H12N2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-(3 -trifluoromethylbenzoyl)piperidine | FC(C=1C=C(C(=O)C2CCNCC2)C=CC1)(F)F | C13H14F3NO
